US07977344B2
2-Butoxy-8-methoxy-9-(tetrahydro-2H-pyran-3-ylmethyl)-9H-purin-6-amine
2-Butoxy-8-methoxy-9H-purin-6-amine trifluoroacetate salt (0.2 g) in dry N,N-dimethylformamide (5 mL) was heated at 60° C. with anhydrous potassium carbonate (0.315 g) for 1 hour and allowed to cool to room temperature before adding 3-(bromomethyl)tetrahydro-2H-pyran (0.112 g). The reaction mixture was heated at 50° C., overnight. The reaction mixture was quenched with water (20 mL) and extracted into ethyl acetate (3 times, 75 mL combined volume). The organic phase was separated, combined and passed through a hydrophobic frit to dry. The organic phase was evaporated under reduced pressure to give a yellow oil which was purified by C18 reverse phase chromatography using water (containing 0.1% formic acid)-acetonitrile (containing 0.05% formic acid) as eluant (20-60%) to afford the title compound as a white solid (105.4 mg).

reactant | 2-Butoxy-8-methoxy-9H-purin-6-amine trifluoroacetate salt | 0.2 g | FC(C(=O)O)(F)F.C(CCC)OC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 0.315 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(bromomethyl)tetrahydro-2H-pyran | 0.112 g | BrCC1COCCC1 | C6H11BrO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-Butoxy-8-methoxy-9-(tetrahydro-2H-pyran-3-ylmethyl)-9H-purin-6-amine | 105.4 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1COCCC1)OC)N | C16H25N5O3
